US06878728B1
(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-{4-[3-(1,3-thiazolidin-3-yl)propoxy]benzyl}propylcarbamate (277)
A solution of 35 mg (0.046 mmol) of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(3-iodopropoxy)benzyl]propylcarbamate, 11 μL (0.14 mmol) of thiazolidine, and 32 μL (0.18 mmol) of N,N-diisopropylethylamine in 0.5 mL of anhydrous DMF was heated to 80° C. with stirring. After 1.5 hours TLC indicated the reaction to be complete. The solution was cooled to RT and concentrated in vacuo. The residue was subjected to flash chromatography (SiO2, 95:5 CH2Cl2/MeOH) to afford 22 mg (67%) of the desired compound as a white foam. 1H NMR (CDCl3): 7.29 (d, 1H), 7.13 (s, 1H), 7.08 (d, 2H), 7.85 (d, 1H), 6.77 (d, 2H), 6.04 (s, 2H), 5.60 (d, 1H), 5.00 (q, 1H), 4.88 (d, 1H), 4.01 (s, 2H), 4.00-3.88 (m, 3H), 3.80 (m, 3H), 3.67 (m, 2H), 3.55 (br s, 1H), 3.19-3.01 (m, 4H), 3.00-2.65 (m, 7H), 2.52 (t, 2H), 1.93 (m, 2H), 1.79 (m, 1H), 1.70-1.42 (m, 2H), 0.89 (d, 3H), 0.83 (d, 3H). MS(ESI): 722(M+H).

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(3-iodopropoxy)benzyl]propylcarbamate | 0.046 mmol, 35 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCCI)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C31H41IN2O10S
reactant | thiazolidine | 0.14 mmol, 11 μL | S1CNCC1 | C3H7NS
reactant | N,N-diisopropylethylamine | 0.18 mmol, 32 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-{4-[3-(1,3-thiazolidin-3-yl)propoxy]benzyl}propylcarbamate | 22 mg, 67% | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCCN2CSCC2)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C34H47N3O10S2
